US08026279B2
Step A: 1-{[(α-Chloroethoxy)carbonyl]aminomethyl}-1-Cyclohexane Acetic Acid
In a 5-liter, 3-neck, round bottom flask containing dichloromethane (1.6 L) is added gabapentin (120.4 g, 0.704 mol) followed by triethylamine (294 mL, 2.11 mol). Chlorotrimethylsilane (178 mL, 1.40 mol) is slowly added while maintaining the reaction temperature below 15° C. and the resulting suspension is stirred for 30 min. 1-Chloroethyl chloroformate (100 g, 0.704 mol) is then added slowly while maintaining the temperature below 15° C. After the addition is complete, additional triethylamine (88 mL, 0.63 mol) is added and the resulting suspension is stirred at room temperature for 30 min. The resulting silyl ester is converted via acidic work-up to the corresponding acid by washing the reaction mixture with water (2×1 L), followed by 1N HCI (2×2 L) then brine (2×500 mL). After drying over anhydrous sodium sulfate and removal of the solvent in vacuo, the crude product (190 g) is obtained as an orange oil and used in Step B without further purification. 1H NMR (CDCI3, 400 MHz): δ 1.41-1.57 (m, 10H), 1.78 (d, 3H), 2.33 (s, 2H), 3.27 (d, 2H), 5.42 (br. s, 1H), 6.55 (q, 1H).

reactant | gabapentin | 0.704 mol, 120.4 g | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | triethylamine | 2.11 mol, 294 mL | C(C)N(CC)CC | C6H15N
reactant | Chlorotrimethylsilane | 1.40 mol, 178 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | 1-Chloroethyl chloroformate | 0.704 mol, 100 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | triethylamine | 0.63 mol, 88 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1.6 L | ClCCl | CH2Cl2
product | 1-{[(α-Chloroethoxy)carbonyl]aminomethyl}-1-Cyclohexane Acetic Acid | 190 g | ClC(C)OC(=O)NCC1(CCCCC1)CC(=O)O | C12H20ClNO4
